US06191124B1
A solution of (2-Phenylethyl)-3-methylimidazo[2,1-b]thiazol-5-yl methanone (Formula B-6) (0.40 g) in ethanol (5.0 mL) was treated with a solution of NaBH4 (0.05 g) in ethanol (5 mL) and reacted for 18 hours. The solvent was removed in vacuo and the residue was treated with 5% acetic acid solution. Precipitated 3-Methyl-α-(2-phenylethyl)imidazo[2,1-b]thiazole-5-methanol (Formula B-8) (0.38 g) was filtered and recrystallized from isopropanol solution to provide pure 3-Methyl-α-(2-phenylethyl)imidazo[2,1-b]thiazole-5-methanol (Formula B-8) (0.35 g), m.p. 144-145°.

reactant | (2-Phenylethyl)-3-methylimidazo[2,1-b]thiazol-5-yl methanone | 0.40 g | C1(=CC=CC=C1)CCC(=O)C1=CN=C2SC=C(N21)C | C15H14N2OS
reactant | NaBH4 | 0.05 g | [BH4-].[Na+]
solvent | ethanol | 5.0 mL | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-Methyl-α-(2-phenylethyl)imidazo[2,1-b]thiazole-5-methanol | 0.35 g | CC=1N2C(SC1)=NC=C2C(O)CCC2=CC=CC=C2 | C15H16N2OS
